US04395549
1 g. of 6-[(4-Methyl-phenyl)-hydrazono]-6,7,8,9-tetrahydro-11H-pyrido [2,1-b] quinazoline-11-one is added in small portions to 10 g. of polyphosphoric acid heated to 180° C. within 5 minutes. After adding the above substance the reaction mixture is stirred for 30 minutes at 180° C. After cooling the mixture is diluted to 40 ml. of water and the pH of the solution is adjusted to 5 by adding 25 V/W% ammoniumhydroxide solution. The precipitated crystals are filtered and washed with water. After drying the product is dissolved in dimethylformamide and treated with active charcoal at 100° C. The dimethylformamide solution is diluted with water whereafter yellowish-white crystals are obtained which are filtered and washed with water. After drying 0.6 g. (63%) of 10-methyl-7,8-dihydro-5H,13H-indolo [2', 3';3,4]-pyrido [2,1-b] quinazoline-5-one are obtained.

reactant | 6-[(4-Methyl-phenyl)-hydrazono]-6,7,8,9-tetrahydro-11H-pyrido [2,1-b] quinazoline-11-one | CC1=CC=C(C=C1)NN=C1CCCN2C1=NC1=CC=CC=C1C2=O | C19H18N4O
reactant | ammoniumhydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 10-methyl-7,8-dihydro-5H,13H-indolo [2', 3';3,4]-pyrido [2,1-b] quinazoline-5-one | 63% | CC=1C=C2C(=CC1)NC1=C2CCN2C1=NC=1C=CC=CC1C2=O | C19H15N3O
